US03962437
A mixture of 66.5 g. of tetrahydro-1,3-thiazin-2-thione and 83 g. of 1-bromo-3-chloropropane in 200 ml. of ethanol is refluxed for 24 hours. The solvent is removed under vacuum and the residue triturated with ether, then acetone. The product is recrystallized from ethanol yielding 2,3,6,7-tetrahydro-(1,3)-thiazino-[2,3-b]-(1,3)-thiazinium bromide.

reactant | tetrahydro-1,3-thiazin-2-thione | S1C(NCCC1)=S | C4H7NS2
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
solvent | ethanol | C(C)O | C2H6O
product | 2,3,6,7-tetrahydro-(1,3)-thiazino-[2,3-b]-(1,3)-thiazinium bromide | [Br-].S1CCC[N+]2=C1SCCC2 | InChI=1S/C7H12NS2.BrH/c1-3-8-4-2-6-10-7(8)9-5-1;/h1-6H2;1H/q+1;/p-1
